US04922021
6.1 g (0.27 g-atom) of metallic sodium are added in small portions, within about 2 hours, to a stirred solution of 10.25 g (40 mmoles) of 1-[N-(2,6-dimethylphenyl)-methanesulfonamido]-2-amino-propane in 200 ml of primary n-amyl-alcohol at 130°-135° C., and then the mixture is stirred at the same temperature for 15 minutes. The mixture is cooled, 10 ml of methanol are added dropwise, thereafter it is washed eight times with 50 ml of water, each, dried over anhydrous magnesium sulfate, filtered, and the solvent is evaporated under reduced pressure. The oily residue, weighing 6.62 g (yield: 93%), is distilled under reduced pressure. 5.6 g of pure 1-(2,6-dimethylphenyl-amino)-2-amino-propane are obtained; b.p.: 105°-107° C/80 Pa. Yield: 78.5%.

reactant | sodium | 6.1 g | [Na] | Na
reactant | 1-[N-(2,6-dimethylphenyl)-methanesulfonamido]-2-amino-propane | 40 mmoles, 10.25 g | CC1=C(C(=CC=C1)C)N(S(=O)(=O)C)CC(C)N | C12H20N2O2S
solvent | methanol | 10 ml | CO | CH4O
product | 1-(2,6-dimethylphenyl-amino)-2-amino-propane | 5.6 g, yield: 93% | CC1=C(C(=CC=C1)C)NCC(C)N | C11H18N2
